US07723381B2
9H-fluoren-9-ylmethyl[4-(2-methyl-[1.3]dioxolan-2-yl)cyclohexyl]carbamate:
A solution of 12.72 g (120 mmol) of sodium carbonate is placed in 120 mL of water and combined with a solution of 7.00 g (38 mmol) of 4-(2-methyl-[1,3]dioxolan-2-yl)cyclohexylamine (cis/trans mixture) in 50 g of dioxane. After cooling to 0° C., a solution of 10.09 g (39 mmol) of Fmoc-chloride in 100 g of dioxane is added dropwise within 0.2 hours. The reaction mixture is stirred for 16 hours with the cooling removed. Then the mixture is poured onto water and extracted with ethyl acetate. The organic phase is washed with water, dried, and evaporated to dryness. The residue is purified by chromatography. Yield: 13.10 g (85%) cis/trans ratio 4:1; NMR: LH201618.

reactant | sodium carbonate | 120 mmol, 12.72 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(2-methyl-[1,3]dioxolan-2-yl)cyclohexylamine | 38 mmol, 7.00 g | CC1(OCCO1)C1CCC(CC1)N | C10H19NO2
reactant | Fmoc-chloride | 39 mmol, 10.09 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | water | 120 mL | O | H2O
solvent | dioxane | 50 g | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 g | O1CCOCC1 | C4H8O2
product | 9H-fluoren-9-ylmethyl[4-(2-methyl-[1.3]dioxolan-2-yl)cyclohexyl]carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C1(OCCO1)C)=O | C25H29NO4
